US05739382
1.1.2. 2-amino-5-bromo-3-iodobenzenesulphonic acid
To 45 g (176 mmol) of 2-amino-5-bromobenzenesulphonic acid are added 46 g (282 mmol) of iodine chloride, 400 ml of aqueous 1N hydrochloric acid solution and 400 ml of methanol. The mixture is heated at 90° C. for 18 hours and concentrated under reduced pressure, and the residue is crystallized from ethanol.

reactant | 2-amino-5-bromobenzenesulphonic acid | 176 mmol, 45 g | NC1=C(C=C(C=C1)Br)S(=O)(=O)O | C6H6BrNO3S
reactant | iodine chloride | 282 mmol, 46 g | ICl | ClI
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
product | 2-amino-5-bromo-3-iodobenzenesulphonic acid | NC1=C(C=C(C=C1I)Br)S(=O)(=O)O | C6H5BrINO3S
